US07071365B2
Synthesis of 3-isopropyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol
A mixture of 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol (2 g, 6.8 mmol), isopropyl methanesulfonate (5.5 mmol), scandium triflate (0.34 g, 5 mol %), and carbon tetrachloride (10 ml) was brought to reflux under argon. After 18 hours, GC indicated 65% conversion to give 78% desired product. Additional isopropyl methanesulfonate (3.1 mmol) was added, and the reaction mixture was refluxed for another 8 hours. GC showed 86% conversion, and 76% selectivity to 3-isopropyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol. The mixture was diluted with ether (20 ml) and 10% HCl (20 ml). The layers were separated, and the aqueous layer was extracted with ether (3×20 ml). The ether layers were combined, dried (MgSO4), and concentrated. The crude product was purified by column chromatography (SiO2, 2% ethyl acetate/hexanes) to yield 1.1 g white solid (48%). MP: 100–102° C.

reactant | 5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol | 6.8 mmol, 2 g | C=1(C(=CC=C2CCCCC12)C1=CC=2CCCCC2C=C1)O | C20H22O
reactant | isopropyl methanesulfonate | 5.5 mmol | CS(=O)(=O)OC(C)C | C4H10O3S
catalyst | scandium triflate | 0.34 g | [O-]S(=O)(=O)C(F)(F)F.[Sc+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | carbon tetrachloride | 10 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-isopropyl-5,5′,6,6′,7,7′,8,8′-octahydro-2,2′-binaphthol | 78% | C(C)(C)C1=C(C(=C2CCCCC2=C1)O)C1=CC=2CCCCC2C=C1 | C23H28O
